US04440933
A. N-[3-(3-Piperidinomethylphenoxy)propyl]ethanediimidamide trihydrochloride
A suspension of 3-amino-4-[3-(3-piperidinomethylphenoxy)propylamino]-1,2,5-thiadiazole 1-oxide (17.1 g; 47.0 mmoles) [prepared according to the procedure of U.S. Pat. No. 4,374,248] in 450 ml of methanol was treated with 38 mL of concentrated HCl. The resultant solution was stirred for 3 hours at ambient temperature. Concentration of the solution followed by azeotropic removal of water with absolute ethanol gave colorless crystals. These were suspended in 200 mL of absolute ethanol, filtered and dried under vacuum to give 16.6 g (82.6%) of the title compound, m.p. 205°-222° C. (dec.). Recrystallization from 50% methanolethyl acetate gave an analytical sample, m.p. 206°-216° C. (dec.).

reactant | 3-amino-4-[3-(3-piperidinomethylphenoxy)propylamino]-1,2,5-thiadiazole 1-oxide | 47.0 mmoles, 17.1 g | NC1=NS(N=C1NCCCOC1=CC(=CC=C1)CN1CCCCC1)=O | C17H25N5O2S
reactant | HCl | 38 mL | Cl | ClH
solvent | methanol | 450 ml | CO | CH4O
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | N-[3-(3-Piperidinomethylphenoxy)propyl]ethanediimidamide trihydrochloride | 16.6 g, 82.6% | Cl.Cl.Cl.N1(CCCCC1)CC=1C=C(OCCCNC(C(N)=N)=N)C=CC1 | InChI=1S/C17H27N5O.3ClH/c18-16(19)17(20)21-8-5-11-23-15-7-4-6-14(12-15)13-22-9-2-1-3-10-22;;;/h4,6-7,12H,1-3,5,8-11,13H2,(H3,18,19)(H2,20,21);3*1H
